US04585768
To a refluxing solution of 4.3 g of (-)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-benzyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one in 50 ml of benzene, a solution of 4.55 g of benzyloxycarbonyl chloride in 10 ml of benzene is added dropwise for 15 minutes. The mixture is refluxed for one hour, and said mixture is evaporated under reduced pressure to remove solvent. 30 ml of ethanol and 50 ml of an aqueous sodium hydroxide solution are added to the residue, and the mixture is stirred at room temperature for 2 hours. Then, the mixture is diluted with water, and the aqueous mixture is extracted with chloroform. The extract is washed with water, dried and evaporated to remove solvent. 4.79 g of (-)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are obtained.

reactant | (-)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-benzyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 4.3 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)CC1=CC=CC=C1)C=CC(=C2)Cl | C26H27ClN2O3S
reactant | benzyloxycarbonyl chloride | 4.55 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | (-)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 4.79 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C(=O)OCC1=CC=CC=C1)C=CC(=C2)Cl | C27H27ClN2O5S
